US04434076
Allyl dimethyl octadecyl ammonium chloride (abbreviated A2MAlk.).
A 2-liter reaction vessel equipped with a mechanical stirrer and a reflux condenser was charged with 660.0 gm. dimethyl octadecyl amine, 199.0 gm. (2.19 mol) allyl chloride, 13.3 (0.11 mol) gm. allyl bromide, 20 gm. sodium bicarbonate, and 350 ml. isopropyl alcohol. This mixture was heated under reflux overnight. Analyses of a filtered aliquot indicated the reaction was complete. The mixture was filtered and upon analysis had an Effective gram MW of 496.74.

reactant | dimethyl octadecyl amine | CN(CCCCCCCCCCCCCCCCCC)C | C20H43N
reactant | allyl chloride | 2.19 mol | C(C=C)Cl | C3H5Cl
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Allyl dimethyl octadecyl ammonium chloride | [Cl-].C(C=C)[N+](CCCCCCCCCCCCCCCCCC)(C)C | InChI=1S/C23H48N.ClH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-23-24(3,4)22-6-2;/h6H,2,5,7-23H2,1,3-4H3;1H/q+1;/p-1
